US05021568
Use is made of 25.5 g (0.3 mol) of 2-pyrrolidone, 50.4 g (0.9 mol) of potassium hydroxide in 200 ml of dimethylsulphoxide and 115 g (0.94 mol) of ethylchloroacetate. After keeping the reaction mass of room temperature, it is added with 600 ml of water and extracted 3 times with portions of 100 ml of dichoroethane. The combined extracts are evaporated, the residue is subjected to fractionation to give 46.9 g (68%) of 2-oxo-1-pyrrolidinyl)acetic acid carboethoxymethyl ester, b.p. 197°-200° C. (10 mm Hg), nD20 =1.4703.

reactant | 2-pyrrolidone | 0.3 mol, 25.5 g | N1C(CCC1)=O | C4H7NO
reactant | potassium hydroxide | 0.9 mol, 50.4 g | [OH-].[K+]
reactant | ethylchloroacetate | 0.94 mol, 115 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | water | 600 ml | O | H2O
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
product | acetic acid carboethoxymethyl ester | C(=O)(OCC)COC(C)=O | C6H10O4
